US04363926
17.0 g (0.06 mole) of trimethylsilyl 2-isopropyl°-1-trimethylsiloxy-cyclopropanecarboxylate were stirred for 2 hours at 30° C. in 100 ml of toluene saturated with hydrogen chloride. Dry nitrogen was then passed through the solution for 1 hour and the precipitate was filtered off. Crystallization from xylene yielded 2-isopropyl-1-hydroxycyclopropanecarboxylic acid (6.1 g) with a melting point of 135° to 138° C.

reactant | 1-trimethylsiloxy-cyclopropanecarboxylate | C[Si](OC1(CC1)C(=O)[O-])(C)C
reactant | hydrogen chloride | Cl | ClH
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-isopropyl-1-hydroxycyclopropanecarboxylic acid | 6.1 g | C(C)(C)C1C(C1)(C(=O)O)O | C7H12O3
